US08809339B2
2-amino-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)-benzamide
Into a 250-mL round-bottom flask, was placed a solution of N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitro-5-(piperidin-1-yl)benzamide (550 mg, 1.27 mmol, 1.00 equiv) in methanol (80 mL). The mixture was treated with Pd/C (550 mg) and stirred under a hydrogen atmosphere for ca. 4 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield in 420 mg (82%) of 2-amino-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)benzamide as a brown syrup

reactant | N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitro-5-(piperidin-1-yl)benzamide | 1.27 mmol, 550 mg, 1.00 equiv | CC=1C=C(C=CC1C)C=1C=NC(=NC1)NC(C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-])=O | C24H25N5O3
solvent | methanol | 80 mL | CO | CH4O
catalyst | Pd/C | 550 mg | [Pd] | Pd
product | 2-amino-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)-benzamide | NC1=C(C(=O)NC2=NC=C(C=N2)C2=CC(=C(C=C2)C)C)C=C(C=C1)N1CCCCC1 | C24H27N5O
